US09382238B2
To a mixture of 3-nitro-5-(trifluoromethyl)benzoyl chloride (1.8 g, 7.10 mmol) in THF (20 mL) was added NH4OH (2.96 mL, 21.30 mmol) at 20° C. The mixture was stirred at 20° C. for 12 h. LCMS showed the reaction was finished. The mixture was extracted with EA, washed with water, and concentrated to give 3-nitro-5-(trifluoromethyl)benzamide (1.5 g, 5.86 mmol, 83% yield): 1H NMR (400 MHz, DMSO-d6) δ 8.91 (s, 1H), 8.62 (br.s, 2H), 8.53 (s, 1H), 7.93 (s., 1H). ES-LCMS m/z 235 (M+H).

reactant | 3-nitro-5-(trifluoromethyl)benzoyl chloride | 7.10 mmol, 1.8 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F | C8H3ClF3NO3
reactant | NH4OH | 21.30 mmol, 2.96 mL | [NH4+].[OH-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-nitro-5-(trifluoromethyl)benzamide | 5.86 mmol, 1.5 g, 83% yield | [N+](=O)([O-])C=1C=C(C(=O)N)C=C(C1)C(F)(F)F | C8H5F3N2O3
